US07053107B2
N-Cyclopropyl-2-{3-[(E)-2-(4-methyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-benzamide
The title compound was prepared analogously to 2-{3-[2-(5-Ethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-N-prop-2-ynyl-benzamide described above, substituting 2,4-dimethyl-pyridine for 4-ethyl-2-methyl-pyridine in the step where 1-(6-Chloro-1H-indazol-3-yl)-2-(5-ethyl-pyridin-2-yl)-ethanol was prepared, and substituting cyclopropyl amine in place of propargyl amine in the final step of the sequence. 1H NMR (DMSO-d6): δ 9.85 (1H, s), 8.56 (2H, m), 8.20 (3H, m), 7.53 (5H, m), 7.35 (1H, s), 7.2 (1H, d, J=6.5 Hz), 7.0 (1H, s), 2.83 (1H, m), 0.70 (2H, m), 0.56 (2H, m). ESIMS (M+H+): 410.3.

reactant | 2-{3-[2-(5-Ethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-N-prop-2-ynyl-benzamide | C(C)C=1C=CC(=NC1)C=CC1=NNC2=CC(=CC=C12)NC1=C(C(=O)NCC#C)C=CC=C1 | C26H23N5O
reactant | 4-ethyl-2-methyl-pyridine | C(C)C1=CC(=NC=C1)C | C8H11N
reactant | 1-(6-Chloro-1H-indazol-3-yl)-2-(5-ethyl-pyridin-2-yl)-ethanol | ClC1=CC=C2C(=NNC2=C1)C(CC1=NC=C(C=C1)CC)O | C16H16ClN3O
reactant | cyclopropyl amine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-2-{3-[(E)-2-(4-methyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-benzamide | C1(CC1)NC(C1=C(C=CC=C1)NC1=CC=C2C(=NNC2=C1)\C=C\C1=NC=CC(=C1)C)=O | C25H23N5O
